US08541573B2
Step-4: N-((4-(4-Cyclopropylpiperazin-1-yl)piperidin-4-yl)methyl)-2,2,2-trifluoroacetamide
Through a solution of N-((1-benzyl-4-(4-cyclopropylpiperazin-1-yl)-piperidin-4-yl)methyl)-2,2,2-trifluoroacetamide (5.4 mmol) in methanol (30 ml) was passed argon gas for 10 min. Then acetic acid (855 μl) and Pd(OH)2 (40% by weight) were added to the reaction mixture and it was stirred at room temperature for 16 h under an atmosphere of H2 by using a hydrogen balloon. The reaction mixture was filtered through celite and the filtrate was concentrated to dryness to yield the desired product which was used in the next step without further purification. Yield: 90%.

reactant | N-((1-benzyl-4-(4-cyclopropylpiperazin-1-yl)-piperidin-4-yl)methyl)-2,2,2-trifluoroacetamide | 5.4 mmol | C(C1=CC=CC=C1)N1CCC(CC1)(N1CCN(CC1)C1CC1)CNC(C(F)(F)F)=O | C22H31F3N4O
reactant | acetic acid | 855 μl | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 ml | CO | CH4O
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
product | N-((4-(4-Cyclopropylpiperazin-1-yl)piperidin-4-yl)methyl)-2,2,2-trifluoroacetamide | Yield: 90% | C1(CC1)N1CCN(CC1)C1(CCNCC1)CNC(C(F)(F)F)=O | C15H25F3N4O
